US07863290B2
6.1 (−)-(1-Azabicyclo[3.2.1]oct-5-yl)pyridine-2-carbonitrile
1.5 g (4.3 mmol) of (−)-5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]octane hydrobromide (prepared according to the method described in step 1.2 of Example 1), dissolved in 12 ml of dimethylformamide, 0.42 g (6.46 mmol) of potassium cyanide and 5 g (4.3 mmol) of tetrakis(triphenylphosphine)palladium are successively introduced into a 25 ml reactor. The mixture is then heated at 90° C. for 3 hours and then neutralized with saturated aqueous sodium carbonate solution. The aqueous phase is extracted with chloroform and the combined organic phases are dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue is purified by chromatography on a column of silica gel, eluting with a mixture of chloroform, methanol and aqueous ammonia in 95/5/0.5 proportions. 0.705 g of expected product is thus obtained in the form of an amorphous solid.

reactant | (−)-5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]octane hydrobromide | 4.3 mmol, 1.5 g | Br.BrC1=NC=C(C=C1)C12CCCN(CC1)C2
reactant | potassium cyanide | 6.46 mmol, 0.42 g | [C-]#N.[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 4.3 mmol, 5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (−)-(1-Azabicyclo[3.2.1]oct-5-yl)pyridine-2-carbonitrile | 0.705 g | N12CCCC(CC1)(C2)C=2C(=NC=CC2)C#N | C13H15N3
